US04440566
Trans-2-[1-(3-chloroallyloxyimino)butyl]-5-(2-ethylthiopropyl)cyclohexane-1,3-dione
0.38 g of sodium methoxide, 10 ml of methanol, and 1.0 g of 3-chloroallyloxyamine hydrochloride (H2NOCH2CH=CHCl) were admixed together and then stirred for 10 minutes at room temperature. 2 g of 2-butyryl-5-(2-ethylthiopropyl)cyclohexane-1,3-dione was added and the resulting mixture stirred for about two days at room temperature. The mixture was then concentrated by evaporation and the concentrate mixed with 60 ml of diethyl ether and 40 ml of water. The ether layer was extracted with 40 ml of aqueous 2 wt. % sodium hydroxide solution, washed with 20 ml of water, dried over anhydrous magnesium sulfate and evaporated affording a minor amount of the title compound as the trans isomer.

reactant | sodium methoxide | 0.38 g | C[O-].[Na+]
reactant | 3-chloroallyloxyamine hydrochloride | 1.0 g | Cl.ClC=CCON
reactant | 2-butyryl-5-(2-ethylthiopropyl)cyclohexane-1,3-dione | 2 g | C(CCC)(=O)C1C(CC(CC1=O)CC(C)SCC)=O | C15H24O3S
solvent | methanol | 10 ml | CO | CH4O
product | Trans-2-[1-(3-chloroallyloxyimino)butyl]-5-(2-ethylthiopropyl)cyclohexane-1,3-dione | ClC=CCON=C(CCC)[C@@H]1C(C[C@H](CC1=O)CC(C)SCC)=O | C18H28ClNO3S
